US20010020034A1
To a mixture of [4-cyano-3-(4-methoxy-benzylsulfanyl)-isothiazol-5-yl]-carbamic acid phenyl ester (1.0 g, 2.5 mmol), trifluoracetic acid (26 mL) and anisole (2.7 g, 25 mmol) at 0° C. was added mercuric acetate (0.80 g, 2.5 mmol). The mixture was allowed to warm to room temperature overnight. After concentration in vacuo, the mixture was diluted with 100 mL of water and 100 mL of ethyl acetate. Hydrogen sulfide was bubbled in slowly until precipitation of the mercury salts was complete. The mixture was diluted with brine, extracted 3× with 200 mL of ethyl acetate, and the combined organic layers were filtered through celite, dried over Na2SO4, filtered and concentrated in vacuo, affording 0.70 g (100%) of (4-cyano-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester as a colorless solid. 1H NMR (400 MHz, acetone-d6) δ 7.47 (t, 2H, J=7.6 Hz), 7.35-7.30 (m, 3H) ppm; MS (APCl, m/z): 276 [M-H]−.

reactant | [4-cyano-3-(4-methoxy-benzylsulfanyl)-isothiazol-5-yl]-carbamic acid phenyl ester | 2.5 mmol, 1.0 g | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)SCC1=CC=C(C=C1)OC)C#N)=O | C19H15N3O3S2
reactant | trifluoracetic acid | 26 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 25 mmol, 2.7 g | C1(=CC=CC=C1)OC | C7H8O
product | (4-cyano-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester | 0.70 g, 100% | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)S)C#N)=O | C11H7N3O2S2
